US06841566B2
In a dry round-bottomed flask (3 L) equipped with a mechanical stirrer under N2, anhydrous N,N,N′,N′-tetramethylethylenediamine (TMEDA, 99.7 mL, 660 mmol, 2.2 eq.) and anhydrous THF (600 mL) were added and the mixture was cooled to −90° C. in a bath of liquid N2/EtOH. Freshly titrated sec-BuLi (550 mL, 1.2M in cyclohexane, 660 mmol., 2.2 eq.) was added slowly via cannula as to maintain the temperature at −50° C. The solution was cooled to −90° C. and 4-chlorobenzoic acid (47.0 g in 400 mL anhydrous THF, 300 mmol) was added slowly via cannula, while stirring carefully to maintain the temperature at −90° C. The reaction mixture was stirred at −90° C. for 1 h before allowed to warm-up to −80° C. and CH3l (80 mL, 1.28 moles) was added very slowly. The reaction mixture was stirred for 10 min at −80° C., then quenched slowly with H2O (600 mL) and allowed to warm-up to room temperature. The aqueous layer was separated, washed with Et2O (2×500 mL) and then acidified with HCl (2.5 N, 600 mL) while cooling in an ice bath; cooling was continued for 16 h at 4° C. to allow crystallization of the desired product. The crude product was dried under vacuum and over anhydrous P2O5 and then re-crystallized from hot toluene (700 mL) to obtain pure 4-chloro-2-methylbenzoic acid (40 g, 78% yield).

reactant | N,N,N′,N′-tetramethylethylenediamine | 660 mmol, 99.7 mL, 2.2 eq. | CN(CCN(C)C)C | C6H16N2
reactant | N2 EtOH | N#N.CCO
reactant | sec-BuLi | 660 mmol, 1.2M, 550 mL, 2.2 eq. | [Li]C(C)CC
reactant | 4-chlorobenzoic acid | 300 mmol, 400 mL, 47.0 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-methylbenzoic acid | 40 g, 78% yield | ClC1=CC(=C(C(=O)O)C=C1)C | C8H7ClO2
